US06482948B1
10 g of ethyl 5,6,7,8-tetrahydro-4-oxo-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-2-carboxylate was added to 60 ml of phosphorus oxychloride, and stirred at 80 to 100° C. for 3 hours. After phosphorus oxychloride was distilled off under reduced pressure, 100 ml of cool water was added to the reaction residue. The reaction solution was made alkaline with an aqueous saturated solution of sodium hydrogen carbonate, and extracted with chloroform. The organic layer was washed with saturated salt water and dried over anhydrous magnesium sulfate. After magnesium sulfate was filtered off, the filtrate was concentrated under reduced pressure to give 9.5 g of ethyl 5,6,7,8-tetrahydro-4-chloro-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-2-carboxylate.

reactant | ethyl 5,6,7,8-tetrahydro-4-oxo-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-2-carboxylate | 10 g | O=C1C2=C(N=C(N1)C(=O)OCC)SC1=C2CCN(C1)C | C13H15N3O3S
reactant | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 5,6,7,8-tetrahydro-4-chloro-7-methylpyrido[4′,3′:4,5]thieno[2,3-d]pyrimidine-2-carboxylate | 9.5 g | ClC=1C2=C(N=C(N1)C(=O)OCC)SC1=C2CCN(C1)C | C13H14ClN3O2S
